US07351858B2
e) Methyl 2-[2-(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenyl)ethoxy]-benzoate
(4-{2-[2-(Methoxycarbonyl)phenoxy]ethyl}phenoxy)acetic acid (0.200 mg, 0.605 mmol) was dissolved in DMF and cooled on an ice-bath N-(2-Fluorobenzyl) ethanamine (0.102 g, 0.666 mmol), TBTU (0.214 g, 0.666 mmol) and DIPEA (0.22 ml, 1.271 mmol) was added. The reaction mixture was stirred for 16 h at room temperature. EtOAc was added and the organic phase was washed with two portions of 20 ml NaCO3 (sat). The organic layer was dried with MgSO4 and the solvent was removed by evaporation. The crude was purified by preparative HPLC (starting with acetonitrile/buffer 60/40 and then increasing the acetonitrile concentration to 100% acetonitrile in 25 min, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M), column KR-100-7-C8, 50*500, flow 80 ml/min). 145 mg of the desired product was obtained after freeze drying (yield 71.1%).

reactant | (4-{2-[2-(Methoxycarbonyl)phenoxy]ethyl}phenoxy)acetic acid | 0.605 mmol, 0.200 mg | COC(=O)C1=C(OCCC2=CC=C(OCC(=O)O)C=C2)C=CC=C1 | C18H18O6
reactant | N-(2-Fluorobenzyl) ethanamine | 0.666 mmol, 0.102 g | FC1=C(CNCC)C=CC=C1 | C9H12FN
reactant | TBTU | 0.666 mmol, 0.214 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.271 mmol, 0.22 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-[2-(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenyl)ethoxy]-benzoate | 145 mg, yield 71.1% | C(C)N(C(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O)CC1=C(C=CC=C1)F | C27H28FNO5
